US04788206
Preparation of (E,E)-5-(3-methoxyphenyl)-2,4-nonadienoic acid 4-nitrophenyl ester
As in Example 115, (E,E)-5-(3-methoxyphenyl)-2,4-nonadienoic acid (4.48 g) and 4-nitrophenol (2.97 g) in 25 mL of dichloromethane was treated with 1,3-dicyclohexylcarbodiimide 3.59 g). The mixture was stirred at room temperature for 3 days and after the normal work up, the crude product was crystallized from 2-propanol yield 5.6 g of (E,E)-5-(3-methoxyphenyl)-2,4-nonadienoic acid 4-nitrophenyl ester, mp 81.5°-83° C.

reactant | (E,E)-5-(3-methoxyphenyl)-2,4-nonadienoic acid | 4.48 g | COC=1C=C(C=CC1)/C(=C/C=C/C(=O)O)/CCCC | C16H20O3
reactant | 4-nitrophenol | 2.97 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 3.59 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (E,E)-5-(3-methoxyphenyl)-2,4-nonadienoic acid 4-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(/CCCC)\C1=CC(=CC=C1)OC)=O | C22H23NO5
